US04544562
20.3 g (0.1 mole) of 6-(p-aminophenyl)-4,5-dihydro5-methyl-3(2H)-pyridazinone were stirred with 14.7 g (0.12 mole) of ethoxyacetyl chloride and 400 ml of absolute acetone for 10 hours at room temperature. The product was filtered off under suction at 10° C., washed with cold acetone and dried at 70° C. under reduced pressure. 14.8 g (51%) of 6-[p-(ethoxyacetylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone were obtained. Mp.: 195°-197° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro5-methyl-3(2H)-pyridazinone | 0.1 mole, 20.3 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | ethoxyacetyl chloride | 0.12 mole, 14.7 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 6-[p-(ethoxyacetylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 14.8 g, 51% | C(C)OCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C15H19N3O3
